US04803270
To a mixture of 1,5-difluoro-2,4-dinitrobenzene (2 g), acetone (20 g) and 50% aqueous glycolonitrile solution (1.2 g), a solution of sodium hydrogen carbonate (0.9 g) in water (18 g) was dropwise added at 27° to 30° C. in 5 minutes, and stirring was continued at 27° to 41° C. for 4.5 hours. After completion of the reaction, the reaction mixture was poured into 1% hydrochloric acid, extracted with ethyl acetate and concentrated. The precipitated crystals were collected by filtration and dried to give 2,4-dinitro-5-fluorophenoxyacetonitrile (2.0 g; yield, 83.0%).

reactant | 1,5-difluoro-2,4-dinitrobenzene | 2 g | FC1=C(C=C(C(=C1)F)[N+](=O)[O-])[N+](=O)[O-] | C6H2F2N2O4
reactant | glycolonitrile | 1.2 g | C(CO)#N | C2H3NO
reactant | sodium hydrogen carbonate | 0.9 g | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 18 g | O | H2O
solvent | acetone | 20 g | CC(=O)C | C3H6O
product | 2,4-dinitro-5-fluorophenoxyacetonitrile | 2.0 g, 83.0% | [N+](=O)([O-])C1=C(OCC#N)C=C(C(=C1)[N+](=O)[O-])F | C8H4FN3O5
